US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-4-fluoro-3-(trifluoromethyl)benzamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (309 mg, 1.00 mmol), 4-fluoro-3-(trifluoromethyl)benzoic acid (312 mg, 1.50 mmol), 1-hydroxybenzotriazole (203 mg, 1.50 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (288 mg, 1.50 mmol) and N,N-dimethylformamide (5.0 mL) as starting materials and in the same manner as in Example 106, the title compound (380 mg, 76%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 1.00 mmol, 309 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 4-fluoro-3-(trifluoromethyl)benzoic acid | 1.50 mmol, 312 mg | FC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | 1-hydroxybenzotriazole | 1.50 mmol, 203 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.50 mmol, 288 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-4-fluoro-3-(trifluoromethyl)benzamide | 380 mg, 76% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=C(C=C2)F)C(F)(F)F)=O)C1 | C24H17F4N5O3
